US06326369B1
2-(8-Hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indancarboxylic acid
An aqueous sodium hydroxide solution (3N, 1.07 ml, 3.22 mmols) was added to an ethanol (10 ml) solution of ethyl 2-(8-hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indancarboxylate (708 mg, 1.61 mmols). The reaction mixture was heated under reflux for 6 hours, and then concentrated in vacuo, which was made acidic with 1 N hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out in vacuo, and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=2:1 to 1:2) to obtain the entitled compound (335 mg) as an oil.

reactant | sodium hydroxide | 3.22 mmols, 3N, 1.07 ml | [OH-].[Na+]
reactant | ethyl 2-(8-hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indancarboxylate | 1.61 mmols, 708 mg | OCCCCCCCCC1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C(=O)OCC | C24H38O7
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(8-Hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indancarboxylic acid | 335 mg | OCCCCCCCCC1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C(=O)O | C22H34O7
